US03991070
EXAMPLE 9 1-Chloro-6-(2-chlorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine
The 2-(3-chloro-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl)-2'-chlorobenzophenone is reacted with propylamine to form the title compound.

reactant | 2-(3-chloro-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl)-2'-chlorobenzophenone | ClC1=NN=C(N1C1=C(C(=O)C2=C(C=CC=C2)Cl)C=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C24H14Cl2N4O3
reactant | propylamine | C(CC)N | C3H9N
product | 1-Chloro-6-(2-chlorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine | ClC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=CC=C1 | C16H10Cl2N4
